US05288720
2-Butyl-6-[1-hydroxy-1-(1-methyl-2-oxo-3-pyrrolidinyl)ethyl]-4(1H)-quinazolinone stereoisomers
To a stirred solution of 3.14 ml of 1-methyl-2-pyrrolidinone in 120 ml of dry tetrahydrofuran at -78° C. is added dropwise 32 8 ml of lithium bis(trimethylsilylamide)(1.0M in tetrahydrofuran followed by stirring for 1.5 hours. To the reaction mixture is added portionwise 8.07 g of cerium chloride and the mixture stirred for 1 hour at -70° C. To the mixture is added portionwise 2.0 g of 6-acetyl-2-butyl-4(1H)quinazolinone and the mixture stirred 5 hours at -70° C. The mixture is allowed to warm to 0° -hydroxy-1(1methyl-C. and stand overnight (0° C.). After addition of 60 ml of saturated ammonium chloride, the mixture is allowed to warm to room temperature and is filtered through diatomaceous earth which is washed with ethyl acetate. The filtrate is concentrated, the residue dissolved in ethyl acetate and the solution washed with 80 ml each of water, and brine and dried (Na2SO 4). The solvent is removed and the solid purified by high pressure liquid chromatography (HPLC) on silica with 2% methanol in ethyl acetate as solvent to give 2.21 g of product as a white glass. Anal. Calcd. for C19H25N3O3 1/2H2O:C,64.8;H,7.4; N,11.9. Found:C,64.1;H,7.6;N,11.9. Mass Spec MSFABL 344 (M+H).

reactant | lithium bis(trimethylsilylamide) | C[Si](C)(C)[NH-].C[Si](C)(C)[NH-].[Li+].[Li+]
reactant | cerium chloride | 8.07 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | 6-acetyl-2-butyl-4(1H)quinazolinone | 2.0 g | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
reactant | 1-methyl-2-pyrrolidinone | 3.14 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-[1-hydroxy-1-(1-methyl-2-oxo-3-pyrrolidinyl)ethyl]-4(1H)-quinazolinone | 2.21 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)(C1C(N(CC1)C)=O)O | C19H25N3O3
